US07666871B2
5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-2-(4-thiophen-2-yl-phenyl)-oxazole
The title compound is prepared in a manner substantially analogous to Example 45 starting from 2-Thiophene boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 339.1 (M+1)

reactant | 2-Thiophene boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-2-(4-thiophen-2-yl-phenyl)-oxazole | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1SC=CC1)CCN1CCCC1 | C20H22N2OS
